US05344932
A solution of 0.3 g of diethyl N-[4-{1-hydroxy-3-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)prop-2-yl}benzoyl]glutamate in 9 ml of 1N aqueous sodium hydroxide is stirred under nitrogen at ambient temperature for 72 hours. The reaction mixture is rendered slightly acidic (pH=-4) with 1N hydrochloric acid and filtered. The solid thus collected is washed with water (5 ml) and cold ethanol (5 ml) and dried to give N-[4-(1-hydroxy-3-(4-hydroxy-6-aminopyrrolo[2,3-d]-pyrimidin-3-yl)prop-2-yl)benzoyl]glutamic acid.

reactant | diethyl N-[4-{1-hydroxy-3-(4-hydroxy-6-pivaloylaminopyrrolo[2,3-d]pyrimidin-3-yl)prop-2-yl}benzoyl]glutamate | 0.3 g | OCC(CN1C=NC=2C(=C1O)C=C(N2)NC(C(C)(C)C)=O)C2=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C2 | C30H39N5O8
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | sodium hydroxide | 1N, 9 ml | [OH-].[Na+]
product | N-[4-(1-hydroxy-3-(4-hydroxy-6-aminopyrrolo[2,3-d]-pyrimidin-3-yl)prop-2-yl)benzoyl]glutamic acid | OCC(CN1C=NC=2C(=C1O)C=C(N2)N)C2=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C2 | C21H23N5O7
